US08426420B2
i) (S)-4,4-Difluoro-pyrrolidine-2-carboxylic acid methyl ester hydrotrifluoroacetate
To a solution of 650 mg (S)-4,4-Difluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester in 10 ml dichloromethane were added 1.5 ml TFA. After stirring for 12 h the solution was concentrated to give the crude hydrotrifluoroacetate.

reactant | (S)-4,4-Difluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 650 mg | COC(=O)[C@H]1N(CC(C1)(F)F)C(=O)OC(C)(C)C | C11H17F2NO4
reactant | TFA | 1.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (S)-4,4-Difluoro-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)[C@H]1NCC(C1)(F)F | C6H9F2NO2
